US20010006969A1
2-Allylamino-4-(cyclohexylcarbamoyl)amino-7-methylthieno[ 3,2-d]pyrimidine
122 mg (1.0 mmol) of N,N-dimethylaminopyridine was added to a solution of 306 mg (1.4 mmol) of di-t-butyldicarbonate in acetonitrile at room temperature, followed by stirring 20 minutes. After 220 mg (1.0 mmol) of 2-allylamino-4-amino-7-methylthieno[3,2-d]pyrimidine was added to the reaction solution, the mixture was stirred at room temperature for 2 hours. Further, 139 mg (1.4 mmol) of cyclohexylamine was added thereto, followed by heating under reflux for 16 hours. After completion of the reaction, the solvent was distilled off under reduced pressure. The residue was purified by a silica gel chromatography (eluent: ethyl acetate-hexane=¼) to give 172 mg (yield: 49.9%) of the title compound.

reactant | di-t-butyldicarbonate | 1.4 mmol, 306 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-allylamino-4-amino-7-methylthieno[3,2-d]pyrimidine | 1.0 mmol, 220 mg | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)N | C10H12N4S
reactant | cyclohexylamine | 1.4 mmol, 139 mg | C1(CCCCC1)N | C6H13N
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Allylamino-4-(cyclohexylcarbamoyl)amino-7-methylthieno[ 3,2-d]pyrimidine | 172 mg, yield: 49.9% | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)NC(NC2CCCCC2)=O | C17H23N5OS
